US05308853
Z-1,3-Dibutyl-5-[[2-butyl-3-(triphenylmethyl)-3H-imidazol-5-yl]methylene]-2,4-imidazolidinedione
To a solution of Z-1-butyl-5-[[2-butyl-3-(triphenylmethyl)-3H-imidazol-5-yl]methylene]-2,4-imidazolidinedione (1.20 g, 2.26 mmol) in DMF (5 mL) was added K2CO3 (1.56 g, 11.3 mmol) and then 1-iodobutane (0.344 mL, 3.02 mmol). The mixture was stirred for 16 hours and then diluted with ether and washed with water and brine. After drying over MgSO4 the product was isolated by chromatography on silica eluting with 80% petroleum ether 20% ethyl acetate.

reactant | Z-1-butyl-5-[[2-butyl-3-(triphenylmethyl)-3H-imidazol-5-yl]methylene]-2,4-imidazolidinedione | 2.26 mmol, 1.20 g | C(CCC)N\1C(NC(/C1=C/C1=CN(C(=N1)CCCC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C34H36N4O2
reactant | K2CO3 | 11.3 mmol, 1.56 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-iodobutane | 3.02 mmol, 0.344 mL | ICCCC | C4H9I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | Z-1,3-Dibutyl-5-[[2-butyl-3-(triphenylmethyl)-3H-imidazol-5-yl]methylene]-2,4-imidazolidinedione | C(CCC)N\1C(N(C(/C1=C/C1=CN(C(=N1)CCCC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCC)=O | C38H44N4O2
